US04263294
In 6.0 ml of dry THF is dissolved 163 mg of maytansinol and under nitrogen gas streams and at -20° C., the solution is treated with 10 molar equivalents of 15% n-butyllithium (n-hexane solution). Then, 556 mg of n-octyl chloroformate is added and the mixture is stirred for 15 minutes. Thereafter, at 0° C., the organic layer is extracted with 1.0 ml of saturated sodium chloride and 20 ml of THF. The organic layer is dried, after which the solvent is distilled off. The residue is purified by silica gel chromatography to obtain 58 mg of maytansinol 3-n-octylcarbonate. Thin layer chromatography on silica gel (Merck HPTLC): Rf=0.61 (developing solvent: chloroform-methanol=95:5),

reactant | maytansinol | 163 mg | CC1C2CC(C(/C=C/C=C(/CC3=CC(=C(C(=C3)OC)Cl)N(C(=O)CC(C4(C1O4)C)O)C)\C)OC)(NC(=O)O2)O | C28H37ClN2O8
reactant | n-butyllithium | C(CCC)[Li]
reactant | n-octyl chloroformate | 556 mg | ClC(=O)OCCCCCCCC | C9H17ClO2
solvent | THF | 6.0 ml | C1CCOC1 | C4H8O
product | maytansinol 3-n-octylcarbonate | 58 mg | CC1C2CC(C(/C=C/C=C(/CC3=CC(=C(C(=C3)OC)Cl)N(C(=O)CC(C4(C1O4)C)O)C)\C)OC)(NC(=O)O2)O.CCC(CCCCC)OC([O-])=O | InChI=1S/C28H37ClN2O8.C9H18O3/c1-15-8-7-9-22(37-6)28(35)14-20(38-26(34)30-28)16(2)25-27(3,39-25)21(32)13-23(33)31(4)18-11-17(10-15)12-19(36-5)24(18)29;1-3-5-6-7-8(4-2)12-9(10)11/h7-9,11-12,16,20-22,25,32,35H,10,13-14H2,1-6H3,(H,30,34);8H,3-7H2,1-2H3,(H,10,11)/p-1/b9-7+,15-8+;
